US06214859B1
A mixture of 2.0 g (9.7 mmol) of 1-(1,3-benzdioxol-5-yl)pentan-2-one, 0.71 g (9.7 mmol) of n-butylamine, 2.88 g (13.6 mmol) of sodium triacetoxyborohydride and 0.58 g (9.7 mmol) of acetic acid were stirred in 1,2-dichloroethane (34 ml) under argon gas for four days at room temperature. Thereafter, the mixture was alkalized with 1 N sodium hydroxide. Water (50 ml) was added to the mixture and was extracted three times with ether (70 ml). The obtained organic phase was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate, concentrated and purified by column chromatography. Chloroform was used for eluting solvent. 1-(1,3-Benzodioxol-5-yl)-2-butylaminopentane was obtained as light yellow oil.

reactant | 1-(1,3-benzdioxol-5-yl)pentan-2-one | 9.7 mmol, 2.0 g | O1COC2=C1C=CC(=C2)CC(CCC)=O | C12H14O3
reactant | n-butylamine | 9.7 mmol, 0.71 g | C(CCC)N | C4H11N
reactant | sodium triacetoxyborohydride | 13.6 mmol, 2.88 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 9.7 mmol, 0.58 g | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 34 ml | ClCCCl | C2H4Cl2
solvent | Water | 50 ml | O | H2O
product | 1-(1,3-Benzodioxol-5-yl)-2-butylaminopentane | O1COC2=C1C=CC(=C2)CC(CCC)NCCCC | C16H25NO2
